US09382241B2
Step 1: 2-(3-Bromophenoxy)pyridine
A suspension of 2-bromopyridine (commercially available) (2.0 g, 13.6 mmol), 3-bromophenol (CAS591-20-8) (4.4 g, 24.9 mmol), K2CO3 (5.2 g, 40 mmol) in DMF (30 mL) was stirred at 130° C. for 30 h. The mixture was filtered, concentrated, and purified by column chromatography to give titled compound (1.0 g, 30.3%).

reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | 3-bromophenol | 24.9 mmol, 4.4 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | K2CO3 | 40 mmol, 5.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-(3-Bromophenoxy)pyridine | 1.0 g, 30.3% | BrC=1C=C(OC2=NC=CC=C2)C=CC1 | C11H8BrNO
